### PR TITLE
feat: tiny and miny (`IGame`)

### PR DESCRIPTION
**Pull request by vihdzp**
Port #24 to our new `IGame` framework. Advances #23.

### CODE REVIEW

File: CombinatorialGames/IGame/Special.lean [hunk 1]
```diff
@@ -93,6 +93,48 @@ theorem star_fuzzy_down : ⋆ ‖ ↓ := by
...
+@[simp]
+theorem neg_tiny (x : IGame) : -(⧾x) = ⧿x := by
+  simp [miny, tiny]
+
+@[simp]
+theorem neg_miny (x : IGame) : -(⧿x) = ⧾x := by
+  simp [miny, tiny]
+
+/-- **Tiny is tiny**. The tiny games are among the smallest of the infinitesimals. -/
+proof_wanted exists_tiny_lt_of_pos {x : IGame} (hx : 0 < x) : ∃ n : ℕ, ⧾n < x
```
Comment (tristan-f-r) [inline CombinatorialGames/IGame/Special.lean]: This should have the restriction that `x` is `Short`.

**Review by LeoDog896 — APPROVED** [review]
